US07319102B1
Preparation of 4-(2,6-difluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester (1):
To a solution of 4-chloro-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester (10.0 g, 43.1 mmol) in acetonitrile (107 mL) is added 2,6-difluoroaniline (9.3 mL, 86.2 mmol). The mixture is heated to 90° C. for 4 hours. The reaction is cooled to room temperature and stored at 0° C. for 15 hours. The white precipitate which forms is filtered and washed with 20% EtOAc/hexanes to afford 14.3 g of the desired product which is used without further purification: 1H NMR (300 MHz, CDCl3/MeOH) δ 9.70 (s, 1H), 8.20 (s, 1H), 7.82 (s, 2H), 5.23 (s, 2H), 3.18 (s, 3H), 2.25 (s, 3H); ESI+ MS: m/z (rel intensity) 326.0 (100, M++H).

reactant | 4-chloro-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester | 43.1 mmol, 10.0 g | C(C)OC(=O)C=1C(=NC(=NC1)SC)Cl | C8H9ClN2O2S
reactant | 2,6-difluoroaniline | 86.2 mmol, 9.3 mL | FC1=C(N)C(=CC=C1)F | C6H5F2N
solvent | acetonitrile | 107 mL | C(C)#N | C2H3N
product | 4-(2,6-difluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carboxylic acid ethyl ester | 14.3 g | C(C)OC(=O)C=1C(=NC(=NC1)SC)NC1=C(C=CC=C1F)F | C14H13F2N3O2S
